US05837711
To a solution of 2-(2-methoxy-5-nitrophenyl)-1,3-dioxolane (1.00 g, 4.4 mmol) in methanol (45 ml) was added PtO2 (20 mg) as a catalyst. The resulted mixture was reacted with Parr Shaker (2.2 kg/cm2) for 1.5 hr. After removal of catalyst by filtration, the reaction mixture was evaporated in vacuo to give crude 2-(5-amino-2-methoxyphenyl)-1,3-dioxolane (894.6 mg, 100%) as a brown oil.

reactant | 2-(2-methoxy-5-nitrophenyl)-1,3-dioxolane | 4.4 mmol, 1.00 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C1OCCO1 | C10H11NO5
solvent | methanol | 45 ml | CO | CH4O
catalyst | PtO2 | 20 mg | O=[Pt]=O
product | 2-(5-amino-2-methoxyphenyl)-1,3-dioxolane | 894.6 mg, 100% | NC=1C=CC(=C(C1)C1OCCO1)OC | C10H13NO3
